US07919504B2
To a 50 mL round bottom flask was added tert-butyl (S)-2-amino-3(4-(trifluoromethyl)phenyl)propyl(5-(phthalazin-5-yl)-1,3,4-thiadiazol-2-yl)carbamate (0.025 g, 0.0476 mmol) DCM (5 mL) and TFA (5 mL). The resulting solution was stirred for 30 minutes and evaporated. The residue was dissolved in EtOAc (100 mL), washed with a mixture of aqueous saturated sodium bicarbonate plus 5% 5N NaOH, and saturated sodium bicarbonate (2×). The organic layer was dried over sodium sulfate and evaporated to provide N—((S)-2-amino-3-(4-(trifluoromethyl)phenyl)propyl)-5-(phthalazin-5-yl)-1,3,4-thiadiazol-2-amine as a tan solid (15 mg, 75%). LCMS (M+H) 431.2 calc. for C20H18F3N6S 431.1. 1H NMR (400 MHz, CDCl3): δ ppm 2.83 (dd, J=14.28, 8.61 Hz, 2H) 3.10 (dd, J=14.28, 4.50 Hz, 1H) 3.71 (m, 1H) 4.22 (d, 2H) 7.12-7.15 (d, 2H) 7.39 (d, J=8.22 Hz, 1H) 7.60 (d, 1H) 8.07 (m, J=1.17 Hz, 1H) 8.11 (d, 1H) 8.17 (d, 1H) 9.70 (s, 1H) 9.87 (s, 1H). 2H not detected.

reactant | tert-butyl (S)-2-amino-3(4-(trifluoromethyl)phenyl)propyl(5-(phthalazin-5-yl)-1,3,4-thiadiazol-2-yl)carbamate | 0.0476 mmol, 5 mL, 0.025 g | N[C@H](CN(C(OC(C)(C)C)=O)C=1SC(=NN1)C1=C2C=NN=CC2=CC=C1)CC1=CC=C(C=C1)C(F)(F)F | C25H25F3N6O2S
reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | N—((S)-2-amino-3-(4-(trifluoromethyl)phenyl)propyl)-5-(phthalazin-5-yl)-1,3,4-thiadiazol-2-amine | 15 mg, 75% | N[C@H](CNC=1SC(=NN1)C1=C2C=NN=CC2=CC=C1)CC1=CC=C(C=C1)C(F)(F)F | C20H17F3N6S
